### PR TITLE
feat(ErdosProblems/405): Formalize the statements in Erdos Problem 405

### PR DESCRIPTION
**Pull request by pandaninjas**
Taken from https://www.erdosproblems.com/405

### CODE REVIEW

File: FormalConjectures/ErdosProblems/405.lean
Comment (mo271) [inline FormalConjectures/ErdosProblems/405.lean:1]: Missing references: Module docstring has only the erdosproblems.com link, but the source cites [ErGr80] (original), [BrEr91] (Brindza–Erdős proved finiteness), and [YuLi96] (Yu–Liu found all solutions).

File: FormalConjectures/ErdosProblems/405.lean [hunk 1]
```diff
@@ -0,0 +1,53 @@
...
+
+/--
+Yu and Liu showed that the only solutions to (p-1)! + a^(p-1) = p^k
+for an odd prime p are:
+2! + 1^2 = 3
+2! + 5^2 = 3^3
+4! + 1^4 = 5^2
+-/
+@[category research solved, AMS 11]
+theorem erdos_405_yu_liu :
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/405.lean]: erdos_405_yu_liu should be erdos_405.variants.yu_liu per naming conventions

File: FormalConjectures/ErdosProblems/405.lean
Comment (mo271) [inline FormalConjectures/ErdosProblems/405.lean:1]: The docstring should explain why Odd p is needed: the source notes "Erdős and Graham ask this allowing $p=2$, but this is presumably an oversight, since clearly there are infinitely many solutions when $p=2$."

Perhaps we can even formalise this statement as well!

**Review by mo271 — COMMENTED** [review]
Thanks, looks good mathematically, just some remarks..

**Comment by pandaninjas** [comment]
I've applied the changes from the code review.

File: FormalConjectures/ErdosProblems/405.lean [hunk 2]
```diff
@@ -0,0 +1,94 @@
...
+theorem erdos_405 :
+    Set.Finite { x : ℕ × ℕ × ℕ | let (a, k, p) := x; p.Prime ∧ Odd p ∧
+      Nat.factorial (p - 1) + a ^ (p - 1) = p ^ k} := by
+  sorry
+
+/--
+Erdős and Graham [ErGr80] ask this allowing $p=2$, but this is presumably an oversight, since clearly
+there are infinitely many solutions when $p=2$.
+
+Observe that this creates 1! + a = 2^k. For all k, fix a = 2^k - 1.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/405.lean]:
```suggestion
Observe that this creates $1! + a = 2^k$. For all $k$, fix $a = 2^k - 1$.
```

File: FormalConjectures/ErdosProblems/405.lean [hunk 3]
```diff
@@ -0,0 +1,94 @@
...
+    have h : 0 < 2^k := by positivity
+    -- omega handles the Presburger arithmetic
+    omega
+
+/--
+Yu and Liu [YuLi96] showed that the only solutions to (p-1)! + a^(p-1) = p^k
+for an odd prime p are:
+2! + 1^2 = 3
+2! + 5^2 = 3^3
+4! + 1^4 = 5^2
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/405.lean]:
```suggestion
Yu and Liu [YuLi96] showed that the only solutions to $(p-1)! + a^(p-1) = p^k$
for an odd prime p are:
$$
2! + 1^2 = 3\\
2! + 5^2 = 3^3\\
4! + 1^4 = 5^2
$$
```

**Review by mo271 — APPROVED** [review]
Thanks, LGTM
Just some suggestions for docstring improvements using latex markdown
